US09422290B2
4-(6-Chloro-3-methyl-[1,2,4]triazolo[4,3-b]pyridazin-8-ylamino)-piperidine-1-carboxylic acid tert-butyl ester
4-(6-Chloro-3-hydrazino-pyridazin-4-ylamino)-piperidine-1-carboxylic acid tert-butyl ester (5.33 g; 15.55 mmol) was treated with 20.0 ml AcOH and then with Ac2O (18.80 ml; 198.89 mmol). It was stirred at ambient temperature for 2 hours. The reaction mixture was diluted with half saturated NaHCO3 solution and extracted with DCM. The organic layer was dried over MgSO4 and purified by using reversed phase chromatography under basic conditions.

reactant | 4-(6-Chloro-3-hydrazino-pyridazin-4-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 15.55 mmol, 5.33 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=C(N=NC(=C1)Cl)NN | C14H23ClN6O2
reactant | AcOH | 20.0 ml | CC(=O)O | C2H4O2
reactant | Ac2O | 198.89 mmol, 18.80 ml | CC(=O)OC(=O)C | C4H6O3
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 4-(6-Chloro-3-methyl-[1,2,4]triazolo[4,3-b]pyridazin-8-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)NC=1C=2N(N=C(C1)Cl)C(=NN2)C | C16H23ClN6O2
